US06262044B1
A mixture of N-benzoyl-4-piperidone (20.0 g, 0.1 mol), ethyl cyanoacetate (10.9 ml, 0.1 mol), ammonium acetate (2.0 g) and acetic acid (6 ml) in benzene (100 ml) was heated at reflux temperature in a 3-nacked reaction flask equipped with a Dean-Stark water trap for 1 h. The cooled reaction mixture was diluted with ethyl acetate (100 ml) washed with water (3×100 ml), saturated aqueous sodium chloride (80 ml), dried (MgSO4) filtered and evaporated in vacuo affording quantitative yield of (1-benzoyl-piperidin-4-ylidene)-cyano-acetic acid ethyl ester as a slowly crystallising oil.

reactant | N-benzoyl-4-piperidone | 0.1 mol, 20.0 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
reactant | ethyl cyanoacetate | 0.1 mol, 10.9 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 2.0 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (1-benzoyl-piperidin-4-ylidene)-cyano-acetic acid ethyl ester | quantitative yield | C(C)OC(C(C#N)=C1CCN(CC1)C(C1=CC=CC=C1)=O)=O | C17H18N2O3
